US08877780B2
A stirred mixture of 6-ethylsulfanyl-pyridazine-3-carboxylic acid (0.37 g, 2.00 mmol) and CDI (0.36 g, 2.20 mmol) in N,N-dimethylformamide (20 mL) was heated to 40° C. under nitrogen. After 1 h, 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate (0.77 g, 2.00 mmol) was added and the mixture was heated at 40° C. for 1.5 h. The mixture was cooled to rt and water (40 mL) was added. After 2 h, the product was isolated by filtration, washed with water (10 mL) and dried in vacuo to give 6-Ethylsulfanyl-pyridazine-3-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.78 g, 86% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 4.43 min (96.78%); mp: 205-207° C.; 1H NMR (DMSO-d6) δ 1.38 (t, J=7.3 Hz, 3H, CH3), 1.98-2.13 (m, 1H, CHH), 2.43-2.69 (m, 2H, CHH, CHH), 2.79-3.00 (m, 1H, CHH), 3.24-3.42 (m, 2H, CH2), 4.69 (d, J=6.2 Hz, 2H, CH—), 5.15 (dd, J=5.3, 12.8 Hz, 1H, CH), 7.75-7.93 (m, 4H, Ar), 7.97 (d, J=9.1 Hz, 1H, Ar), 9.98 (t, J=6.3 Hz, 5H, NH), 11.13 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.18, 21.99, 24.01, 30.93, 42.42, 48.99, 122.15, 123.53, 124.92, 126.89, 129.85, 131.57, 133.60, 147.19, 149.74, 162.99, 165.00, 166.97, 167.12, 169.82, 172.73; LCMS: MH=454; Anal Calcd for C21H19N5O5S: C, 55.62; H, 4.22; N, 15.44. Found: C, 55.43; H, 4.09; N, 15.22.

reactant | 6-ethylsulfanyl-pyridazine-3-carboxylic acid | 2.00 mmol, 0.37 g | C(C)SC1=CC=C(N=N1)C(=O)O | C7H8N2O2S
reactant | CDI | 2.20 mmol, 0.36 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate | 2.00 mmol, 0.77 g | CS(=O)(=O)O.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | water | 40 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 6-Ethylsulfanyl-pyridazine-3-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.78 g, 86% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)C=1N=NC(=CC1)SCC)=O)=O | C21H19N5O5S
